US07339082B2
A tert-butyl magnesium chloride (5 mL, 10 mmol, 2.0 M diethylether solution) was added to a diethylether (120 mL) solution dissolved with {4-(pentafluorophenyl)-2,3,5,6-tetrafluorophenyl}(triflyl)methane (4.6 g, 10 mmol), at −78° C. under argon atmosphere. After the reaction solution was stirred for 0.5 hour at −78° C., it was further stirred for 0.5 hour at 0° C. Then, the solution was cooled again to −78° C., trifluoromethane sulfinic acid anhydride (0.84 mL, 5 mmol) was added, and the resultant solution was stirred for 2 hours at room temperature. Further, tert-butyl magnesium chloride (3.75 mL, 7.5 mmol, 2.0 M diethylether solution) was added at −78° C. After the reaction solution was stirred at −78° C. for 0.5 hour, it was stirred at 0° C. for 0.5 hour. The solution was cooled again to −78° C., trifluoromethanesulfonic acid anhydride (0.84 mL, 5 mmol) was added, and the resultant solution was stirred for 2 hours at room temperature. After the reaction was completed, water was added, further neutralized with 1 M hydrochloric acid water, and the water phase was washed with hexane. Then, said water phase was acidified with 4 M hydrochloric acid water, and extracted with diethylether. The organic phase was dried with magnesium sulfate, filtrated, and the solvent was removed under reduced pressure. The crude product was sublimated (8 to 9 Pa, 150° C., and the aimed {4-(pentafluorophenyl)-2,3,5,6-tetrafluorophenyl}bis(triflyl)methane (2.79 g, 4.7 mmol, 47% yield) was isolated. 1H NMR (CDCl3, 300 MHz) δ 6.32 (s, 1H, CH), 19F NMR (CDCl3, 282 MHz) δ−75.1 (s, 6F, 2CF3), −127.72 to −127.58 (m, 1F), −133.43 (dt, J=10.2, 21.3 Hz, 1F), −134.60 (dt, J=9.4, 21.3 Hz, 1F), −137.08 to −137.35 (m, 2F), −140.07 (br, 1F), −148.38 (t, J=21.3 Hz, 1F), −160.01 (dt, J=6.2, 21.3 Hz, 2F).

reactant | tert-butyl magnesium chloride | 10 mmol, 2.0 M, 5 mL | C(C)(C)(C)[Mg]Cl
reactant | {4-(pentafluorophenyl)-2,3,5,6-tetrafluorophenyl}(triflyl)methane | 10 mmol, 4.6 g | FC1=C(C(=C(C(=C1C1=C(C(=C(C(=C1F)F)CS(=O)(=O)C(F)(F)F)F)F)F)F)F)F | C14H2F12O2S
reactant | trifluoromethane sulfinic acid anhydride | 5 mmol, 0.84 mL | FC(S(=O)OS(=O)C(F)(F)F)(F)F | C2F6O3S2
reactant | tert-butyl magnesium chloride | 7.5 mmol, 2.0 M, 3.75 mL | C(C)(C)(C)[Mg]Cl
reactant | trifluoromethanesulfonic acid anhydride | 5 mmol, 0.84 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid water | 1 M | O.Cl
solvent | water | O | H2O
solvent | diethylether | 120 mL | C(C)OCC | C4H10O
product | {4-(pentafluorophenyl)-2,3,5,6-tetrafluorophenyl}bis(triflyl)methane | 4.7 mmol, 2.79 g, 47% yield | FC1=C(C(=C(C(=C1C1=C(C(=C(C(=C1F)F)C(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)F)F)F)F)F)F | C15HF15O4S2
